US07368579B2
(R)-(−)-1-(tert-Butyldimethylsilanyloxy)-3-chloropropan-2-ol (11.19 g) prepared in reference example 31 was dissolved in dichloromethane (20 ml), then 3,4-dihydro-2H-pyran (5.87 ml) and pyridinium p-toluenesulfonate (catalytic amount) were added, then the reaction mixture was stirred at a room temperature overnight. The reaction mixture was concentrated under a reduced pressure, the residue was purified by use of a silica gel column chromatography (eluent: n-hexane/ethyl acetate=20/1), there was obtained 1-(t-butyldimethylsilanyloxy)-3-chloro-2-(tetrahydropyran-2-yloxy)propane (14.14 g, yield: 92.0%) as colorless liquid product.

reactant | (R)-(−)-1-(tert-Butyldimethylsilanyloxy)-3-chloropropan-2-ol | 11.19 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CCl)O | C9H21ClO2Si
reactant | 3,4-dihydro-2H-pyran | 5.87 ml | O1CCCC=C1 | C5H8O
reactant | pyridinium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-(t-butyldimethylsilanyloxy)-3-chloro-2-(tetrahydropyran-2-yloxy)propane | 14.14 g, yield: 92.0% | [Si](C)(C)(C(C)(C)C)OCC(CCl)OC1OCCCC1 | C14H29ClO3Si
